US04886793
A solution of allyl chloroformate (15 ml) in dry dichloromethane was added at -20° C. under stirring to a solution of N-methylpiperazine (10 g) in the same solvent. After 30 minutes the temperature was let rise to +15° C. and the reaction mixture was poured into water. The organic layer was discarded, 1N NaOH was added to a pH≥7, and the mixture was extracted with dichloromethane. The CH2Cl2 extracts were dried (MgSO4), evaporated, and the resulting oil distilled 118° C. (at 18 mmHg) to yield 4-allyloxycarbonyl-1-methylpiperazine (15.3 g).

reactant | allyl chloroformate | 15 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | N-methylpiperazine | 10 g | CN1CCNCC1 | C5H12N2
reactant | water | O | H2O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-allyloxycarbonyl-1-methylpiperazine | 15.3 g | C(C=C)OC(=O)N1CCN(CC1)C | C9H16N2O2
